US05624943
Under the conditions of example 1 D, 1.24 g of 3-{3-hydroxy-6-[2-(3-methoxycarbonylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester is reacted with 970 mg of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene, worked up, and the crude product is chromatographed on silica gel with hexane/0-7.5% ethyl acetate. 1.1 g of 3-{6-[2-(3-methoxycarbonylphenyl)-ethyl]-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester is obtained as colorless oil.

reactant | 3-{3-hydroxy-6-[2-(3-methoxycarbonylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester | 1.24 g | COC(CCC1=NC(=CC=C1O)C#CC1=CC(=CC=C1)C(=O)OC)=O | C19H17NO5
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 970 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
product | 3-{6-[2-(3-methoxycarbonylphenyl)-ethyl]-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 1.1 g | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)CCC1=CC(=CC=C1)C(=O)OC)=O | C32H37NO6
